US07314888B1
In 31 ml of N,N-dimethylformamide are suspended 3.1 g of 3-hydroxy-4-isobutoxybenzaldehyde, 0.7 g of 60% sodium hydride and 3 ml of acetic anhydride. The suspension is stirred for 2 hours at 100° C. The reaction mixture is added to a mixture of ethyl acetate and water, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. Thus, 4.2 g of 5-formyl-2-isobutoxyphenyl acetate is obtained as a yellow oily product.

reactant | 3-hydroxy-4-isobutoxybenzaldehyde | 3.1 g | OC=1C=C(C=O)C=CC1OCC(C)C | C11H14O3
reactant | sodium hydride | 0.7 g | [H-].[Na+]
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 31 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-formyl-2-isobutoxyphenyl acetate | 4.2 g | C(C)(=O)OC1=C(C=CC(=C1)C=O)OCC(C)C | C13H16O4
